US08110585B2
trans-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanol
Under nitrogen atmosphere, to a solution of trans-ethyl 2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropanecarboxylate (5.40 g, 22.1 mmol) in tetrahydrofuran (150 mL) was added lithium aluminum hydride (0.750 g, 22.1 mmol) at 0° C., and the mixture was stirred for 30 min. To the reaction mixture were added ethyl acetate, water and 10% aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The extract was washed with 2 N hydrochloric acid and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by recrystallization (ethyl acetate/hexane) to give the title compound (4.30 g, yield 96%).

reactant | trans-ethyl 2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropanecarboxylate | 22.1 mmol, 5.40 g | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)C(=O)OCC)=C1 | C14H16N2O2
reactant | lithium aluminum hydride | 22.1 mmol, 0.750 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | trans-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanol | 4.30 g, yield 96% | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CO)=C1 | C12H14N2O
